US06323217B2
Step A: Ethyl N-(1-benzyl-4-hydroxy-4-piperidyl)methylcarbamate
A solution of 14.75 g of ethyl chloroformate in 125 ml of dichloromethane is added, at 0° C., to a solution of 30 g of 1-benzyl-4-aminomethyl-piperidin-4-ol and 13.8 g of triethylamine in 250 ml of dichloromethane. After 10 minutes' contact, the reaction mixture is washed with 0.1N sodium hydroxide solution and then dried over MgSO4. Concentration under reduced pressure enables the expected product to be isolated.

reactant | ethyl chloroformate | 14.75 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-benzyl-4-aminomethyl-piperidin-4-ol | 30 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)CN | C13H20N2O
reactant | triethylamine | 13.8 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 125 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Ethyl N-(1-benzyl-4-hydroxy-4-piperidyl)methylcarbamate | C(C1=CC=CC=C1)N1CCC(CC1)(O)CNC(OCC)=O | C16H24N2O3
